US04752615
Methyl N-(2-ethoxy-3-chloro-5-aminophenyl)carbamate (1.39 g) and N,N-diethylaniline (0.85 g) were dissolved in toluene (15 ml). To the resultant solution was dropwise added isopropyl chloroformate (0.70 g) in 5 minutes under ice-cooling. The resultant mixture was allowed to stand at room temperature for 12 hours, poured into ice-water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The reside was purified by silica gel chromatography using a mixture of toluene and ethyl acetate as the eluent to give isopropyl N-(3-chloro-4-ethoxy-5-methoxycarbonylaminophenyl)carbamate (Compound No. 2) (1.73 g) in a yield of 92.0%. M.P., 140° C.-142° C.

reactant | Methyl N-(2-ethoxy-3-chloro-5-aminophenyl)carbamate | 1.39 g | C(C)OC1=C(C=C(C=C1Cl)N)NC(OC)=O | C10H13ClN2O3
reactant | N,N-diethylaniline | 0.85 g | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | isopropyl chloroformate | 0.70 g | ClC(=O)OC(C)C | C4H7ClO2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | isopropyl N-(3-chloro-4-ethoxy-5-methoxycarbonylaminophenyl)carbamate | 1.73 g, yield of 92.0% | ClC=1C=C(C=C(C1OCC)NC(=O)OC)NC(OC(C)C)=O | C14H19ClN2O5
